US08431604B2
167.1 N-(2-chloro-1-morpholine-4-ylethylidene)-4-methylphenyl sulfonamide
To 1 g (5.02 mmol) 2-chloro-1-morpholine-4-ylethaniminium chloride and 0.7 ml triethylamine in 25 ml acetonitrile were added 0.96 g p-toluene sulfonic acid chloride at 10° C. and the mixture was stirred for 2 hours at 5-10° C. For workup, the mixture was diluted with dichlormethane, was washed with water and saturated NaCl-solution, was dried with MgSO4, was filtered and was evaporation-concentrated. Chromatography on silica gel (dichlormethane/methanol 0-3%) yielded 400 mg of the target products; ESI-MS [M+H+]=317.05.

reactant | 2-chloro-1-morpholine-4-ylethaniminium chloride | 5.02 mmol, 1 g | [Cl-].ClCC(=[NH2+])N1CCOCC1
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluene sulfonic acid chloride | 0.96 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | dichlormethane | ClCCl | CH2Cl2
product | N-(2-chloro-1-morpholine-4-ylethylidene)-4-methylphenyl sulfonamide | 400 mg | ClCC(N1CCOCC1)=NS(=O)(=O)C1=CC=C(C=C1)C | C13H17ClN2O3S
